US06169091A
4-[3-Chloro-4-(2-fluorobenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.103 g, 0.60 mmol) and 3-chloro-4-(2-fluorobenzyloxy)aniline (prepared according to the published method: WO 96/09294) (0.197 g, 0.78 mmol) were reacted in 2-propanol (4.5 ml) for 4.5 hours, according to Procedure A. The product was obtained as cream prisms (0.208 g, 82%) with m.p. 231-233° C.; (Found: C, 53.39; H, 3.30; N, 9.79. C19H13ClFN3OS.HCl.H2O requires: C, 53.47; H, 3.42; N, 9.85%); δH [2H6]-DMSO 8.88 (1H, s, 2-H), 8.47 (1H, d, J 7, 6 H or 7 H) 7.88 (1H, d, J 5, 2′-H), 7.55-7.68 (3H, m), 7.33-7.49 (2H, m), 7.20-7.30 (2H, m) (6H or 7H, 5′-H, 6′-H, 3″-H, 4″-H, 5″-H, 6″-H), 5.29 (2H, s, CH2); m/z 385 (M+1+).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 0.60 mmol, 0.103 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 3-chloro-4-(2-fluorobenzyloxy)aniline | ClC=1C=C(N)C=CC1OCC1=C(C=CC=C1)F | C13H11ClFNO
solvent | 2-propanol | 4.5 ml | CC(C)O | C3H8O
product | 4-[3-Chloro-4-(2-fluorobenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride | 0.208 g, 82% | Cl.ClC=1C=C(NC=2C3=C(N=CN2)C=CS3)C=CC1OCC1=C(C=CC=C1)F | InChI=1S/C19H13ClFN3OS.ClH/c20-14-9-13(24-19-18-16(7-8-26-18)22-11-23-19)5-6-17(14)25-10-12-3-1-2-4-15(12)21;/h1-9,11H,10H2,(H,22,23,24);1H
